US07750017B2
Step 5. Preparation of 7-bromo[1]benzothieno[2,3-d]pyrimidin-4(3H)-one
Ethyl 2-amino-6-bromo-1-benzothiophene-3-carboxylate (9.0 g, 27 mmol), formamide (85 mL) and ammonium formate (2.7 g, 43 mmol) were heated in an oil bath at 135° C. overnight. The next morning the reaction mixture was a pastel blue slurry. The reaction mixture was allowed to cool to room temperature and was then filtered. The solid was washed with water, dried by filtration, and finally dried in a vacuum oven overnight at 45° C. to yield a light blue solid (7.8 g, quantitative). 1H NMR (DMSO-d6) δ 12.9 (br, 1H), 8.37 (s, 1H), 8.35 (d, 1H), 8.31 (s, 1H), 7.69 (d, 1H); LCMS RT=3.08 min, [M+H]+=281.1.

reactant | Ethyl 2-amino-6-bromo-1-benzothiophene-3-carboxylate | 27 mmol, 9.0 g | NC=1SC2=C(C1C(=O)OCC)C=CC(=C2)Br | C11H10BrNO2S
reactant | formamide | 85 mL | C(=O)N | CH3NO
reactant | ammonium formate | 43 mmol, 2.7 g | C(=O)[O-].[NH4+]
product | 7-bromo[1]benzothieno[2,3-d]pyrimidin-4(3H)-one | BrC1=CC2=C(C=C1)C1=C(N=CNC1=O)S2 | C10H5BrN2OS
